US06713464B1
3-[3-(2-Benzyloxy-5-bromophenyl)-(3S)-3-phenylpropionyl]-(4R)-4-phenyloxazolidin-2-one
To a precooled (−30° C.) mixture of copper-(I) chloride (21.0 g) and dimethylsulfide (45 ml) in dry tetrahydrofuran (150 ml) was added dropwise an ethereal solution of phenylmagnesiumbromide (0.3 mol). The mixture was stirred 20 min at the same temperature and then cooled to −40° C. A solution of 3-[3-(2-Benzyloxy-5-bromophenyl)-acryloyl]-(4R)-4-phenyloxazolidin-2-one (50.0 mmol) in dry tetrahydrofuran (150 ml) was added during 10 min. The cooling bath was removed and stirring was continued for 18 hrs. The mixture was quenched with half-saturated aqueous ammonium chloride solution and the product was isolated by extraction with ethyl acetate.

reactant | dimethylsulfide | 45 ml | CSC | C2H6S
reactant | phenylmagnesiumbromide | 0.3 mol | C1(=CC=CC=C1)[Mg]Br
reactant | 3-[3-(2-Benzyloxy-5-bromophenyl)-acryloyl]-(4R)-4-phenyloxazolidin-2-one | 50.0 mmol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C=CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C25H20BrNO4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | copper-(I) chloride | 21.0 g | [Cu]Cl
product | 3-[3-(2-Benzyloxy-5-bromophenyl)-(3S)-3-phenylpropionyl]-(4R)-4-phenyloxazolidin-2-one | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)[C@@H](CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C31H26BrNO4
